US07001899B2
Preparation of {3-[(isoquinolin-1-carbonyl)amino]-2-oxo-2,3,4,7-tetrahydroazepin-1-yl} acetic acid (5):
A solution of {3-[(isoquinolin-1-carbonyl)amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl} acetic acid methyl ester, 4, (330 mg, 0.9 mmol) in 3:1 THF/H2O is treated with excess LiOH (360 mg, 8.6 mmol) and stirred for 2.5 hours at room temperature. The solution is then acidified and the aqueous layer extracted with EtOAc. The EtOAc layer is dried (MgSO4) and concentrated in vacuo to afford the desired product.

reactant | {3-[(isoquinolin-1-carbonyl)amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl} acetic acid methyl ester | COC(CN1C(C(CC=CC1)NC(=O)C1=NC=CC2=CC=CC=C12)=O)=O | C19H19N3O4
reactant | LiOH | 8.6 mmol, 360 mg | [Li+].[OH-]
solvent | THF H2O | C1CCOC1.O
product | {3-[(isoquinolin-1-carbonyl)amino]-2-oxo-2,3,4,7-tetrahydroazepin-1-yl} acetic acid | C1(=NC=CC2=CC=CC=C12)C(=O)NC1C(N(CC=CC1)CC(=O)O)=O | C18H17N3O4
